Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Elevated liver enzymes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old female with a history of anxiety/depression is 
referred from the PCP office for elevated liver enzymes. 

The patient visited the PCP office on ___ for fever (T 
100.1), chills, headaches and generalized body aches that 
started two days prior to the visit (___). She took OTC 
analgesics for symptomatic relief. The patient was found to have 
elevated LFTs (AST: 172/ALT: 168). LFTs were repeated on 
___, and they were elevated from prior (AST 516, ALT 541, 
ALP 469). The patient was referred to the ED for further 
management. 

She was on the ___ for two days in mid ___, but does not 
recall any tick or other insect bites. No rash, visual symptoms 
or joint pains. Her husband was very sick with Mono for about 
___ weeks in ___.

The patient denies new sexual partners, IVDU, or use of herbal 
medications.
 
Past Medical History:
ALLERGIC RHINITIS   
ANXIETY/DEPRESSION 
COLONIC ADENOMA 
 
Social History:
___
Family History:
Mother - deceased ___ - Multiple myeloma - skin cancer - 
___'s 
Father - living ___ - prostate cancer - renal stent -colonic 
polyps 
Sister - living ___ - hypertension - osteoporosis 
Brother - living ___ - hyperlipidemia 

 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: ___ T:98.4 HR:76 BP:135/87  RR:18 O2SAT: 100% RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and with injection 
due
to lake of sleep. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE EXAM:
===============
VITALS: 24 HR Data (last updated ___ @ 427)
    Temp: 100.1 (Tm 100.1), BP: 108/62 (108-134/62-83), HR: 95
(71-95), RR: 16 (___), O2 sat: 91% (91-97), O2 delivery: Ra,
Wt: 145.5 lb/66 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. Sclera anicteric. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Normal rate and rhythm. Normal S1 and S2. Grade ___
systolic ejection murmur heard at base. No rubs or gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales.
ABDOMEN: Soft, nontender, nondistended. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
NEUROLOGIC: AAOx3. No asterixis. Motor and sensory function
grossly intact throughout.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:30AM   WBC-10.9* RBC-4.35 HGB-13.1 HCT-39.1 MCV-90 
MCH-30.1 MCHC-33.5 RDW-13.1 RDWSD-43.5
___ 09:30AM   NEUTS-24* BANDS-0 ___ MONOS-13 EOS-1 
BASOS-0 ATYPS-3* METAS-1* MYELOS-0 OTHER-5* AbsNeut-2.62 
AbsLymp-6.10* AbsMono-1.42* AbsEos-0.11 AbsBaso-0.00*
___ 09:30AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 09:30AM   PLT SMR-NORMAL PLT COUNT-229
___ 09:30AM   GLUCOSE-166* UREA N-11 CREAT-0.8 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-97 TOTAL CO2-25 ANION GAP-16
___ 09:30AM   ALT(SGPT)-641* AST(SGOT)-426* ALK PHOS-623* 
TOT BILI-1.2 DIR BILI-0.4* INDIR BIL-0.8
___ 09:30AM   ALBUMIN-3.9 CALCIUM-9.3 PHOSPHATE-3.0 
MAGNESIUM-2.2
___ 09:30AM   LIPASE-35
___ 10:57AM   ___ PTT-27.6 ___

PERTINENT LABS:
===============
___ 07:44PM   ALT(SGPT)-550* AST(SGOT)-369* LD(LDH)-430* 
ALK PHOS-587* TOT BILI-0.9
___ 07:44PM   ALBUMIN-3.4* IRON-49
___ 07:44PM   calTIBC-335 FERRITIN-397* TRF-258
___ 07:44PM   IgG-1097 IgA-283 IgM-189
___ 07:44PM   WBC-9.7 RBC-3.78* HGB-11.2 HCT-34.0 MCV-90 
MCH-29.6 MCHC-32.9 RDW-13.2 RDWSD-43.2
___ 07:44PM   ___ PTT-28.2 ___
___ 08:11AM BLOOD WBC-12.1* RBC-3.91 Hgb-11.8 Hct-35.3 
MCV-90 MCH-30.2 MCHC-33.4 RDW-13.4 RDWSD-44.7 Plt ___
___ 07:44PM BLOOD ALT-550* AST-369* LD(LDH)-430* 
AlkPhos-587* TotBili-0.9
___ 08:11AM BLOOD IgM HBc-NEG

DISCHARGE LABS:
================
___ 03:25PM BLOOD WBC-11.4* RBC-3.86* Hgb-11.7 Hct-34.8 
MCV-90 MCH-30.3 MCHC-33.6 RDW-13.2 RDWSD-43.6 Plt ___
___ 08:11AM BLOOD Glucose-92 UreaN-9 Creat-0.9 Na-138 K-3.9 
Cl-98 HCO3-27 AnGap-13
___ 03:25PM BLOOD ALT-456* AST-310* LD(LDH)-457* 
AlkPhos-605* TotBili-1.4 DirBili-0.7* IndBili-0.7
___ 08:11AM BLOOD Albumin-3.4* Calcium-8.6 Phos-3.2 Mg-2.1

PERTINENT IMAGING:
==================
DUPLEX DOPP ABD/PELStudy Date of ___ 10:55 AM
IMPRESSION: 
Unremarkable appearance of the liver.   Patent hepatic 
vasculature.

MICROBIOLOGY:
===============
___ 10:42 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 
__________________________________________________________
___ 10:42 am Blood (LYME)

                            **FINAL REPORT ___

   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
      Negative results do not rule out B. burg___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody. 
 
Brief Hospital Course:
___ F hx of anxiety/depression admitted for elevated liver 
enzymes of unclear etiology.

ACUTE ISSUES:
=============
#Transaminitis
Pt was found to have elevated LFTs as an outpatient with a 
predominantly hepatocellular pattern. The differential diagnosis 
includes infectious (viral) vs autoimmune vs toxin-mediated. 
Resulting work-up while admitted was largely negative, 
including: HAV, HCV, AMA, lyme, Monospot. Many serologic studies 
were still pending at time of discharge. Dr. ___ 
hepatology ___ follow these labs up in the outpatient setting. 
Her LFTs plateaued and then began to trend down, and she was 
stable for discharge on ___ with close outpatient follow-up.

CHRONIC ISSUES:
===============
#Home medications
Home citalopram was continued at a lower dose of 5mg.

TRANSITIONAL ISSUES:
====================
#Transaminitis
-Will need outpatient follow up with Dr ___ need LFTs checked twice weekly until resolution of liver 
injury

-Continued citalopram at decreased dose of 5mg daily. Will 
continue this dose until directed by Dr ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 5 mg PO DAILY 

 
Discharge Medications:
1.  Citalopram 5 mg PO DAILY 
RX *citalopram 10 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
-Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted because your labs showed signs of liver 
injury.

What was done for me while I was in the hospital?  
- You had an ultrasound of your liver which showed a normal 
appearance
- You had a chest x-ray which showed no evidence of pneumonia
- You were seen by Dr. ___ (liver 
specialist), who will follow you closely as an outpatient.

What should I do when I leave the hospital?  
- You should have labs checked twice each week, beginning with 
___ and ___
- You should continue to take your citalopram at the decreased 
dose of 5mg
- You should follow up with Dr. ___. Please call her office 
at ___ to schedule an appointment.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___